US04810800
Under nitrogen, solid imidazole (34 g, 0.5 mol) is added cautiously to a slurry of 20.9 g (0.55 mol) 50% NaH dispersion in 500 ml dry DMF. After hydrogen evolution ceases, 115 g (0.55 mol) 2-iodothiophene in 100 ml DMF is added. The reaction is heated at 150° C. for 18 hours. After cooling, the reaction is diluted with 2 liters of water and the product extracted into EtOAc (2×400 ml). After drying, (Na2SO4) the solvent is removed to give crude 1-(2-thienyl)imidazole. The product is purified by vacuum distillation.

reactant | imidazole | 0.5 mol, 34 g | N1C=NC=C1 | C3H4N2
reactant | NaH | 0.55 mol, 20.9 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-iodothiophene | 0.55 mol, 115 g | IC=1SC=CC1 | C4H3IS
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 2 liters | O | H2O
product | 1-(2-thienyl)imidazole | S1C(=CC=C1)N1C=NC=C1 | C7H6N2S
